US05610303
4-chloro-7-fluoro-5,6-dihydro-7H-cyclopenta[d]pyrimidine
Under ice cooling, 3.9 ml of diethylaminosulfite trifluoride (DAST) was added dropwise to 5.00 g of 4-chloro-7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidine obtained above dissolved in 40 ml of chloroform, and the mixture was stirred at the same temperature for 10 minutes. After the solvent was removed under reduced pressure, water was added to the mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and condensed. The obtained residue was applied to silica gel column chromatography to obtain 3.09 g of the title compound as a yellow oily product.

reactant | diethylaminosulfite trifluoride | 3.9 ml | [F-].[F-].[F-].C(C)N(CC)S(=O)([O-])[O-]
reactant | 4-chloro-7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 5.00 g | ClC=1C2=C(N=CN1)C(CC2)O | C7H7ClN2O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-7-fluoro-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 3.09 g | ClC=1C2=C(N=CN1)C(CC2)F | C7H6ClFN2
